US09084800B2
The effect of pH of the solid surface (alumina) on the yield of tryptamino-withaferin-A conjugate was studied using acidic alumina (Aluminum oxide active, acidic Activity I-II, Loba Chemie Private Limited, Mumbai, India pH 3.5-5.0), neutral alumina (Aluminum oxide active, neutral Activity I-II, pH 6.8-7.8, Merck Specialities Private Limited, Mumbai, India) and basic alumina (Aluminum oxide active, basic Activity I-II, Loba Chemie Private Limited, Mumbai, India pH 8.5-10). In a typical reaction, Tryptamine-HCl (16 mg) was weighed, taken in a conical flask and dissolved in 0.2 ml of millipore water. To the solution, 0.2 ml of ammonia solution was added and the mixture was warmed on steam bath until the smell of ammonia faded. Tryptamine thus formed was dissolved in 5 ml of ethanol. To the ethanolic solution of Tryptamine, 94 mg of Withaferin-A was added (to maintain 1:2 molar ratio of Tryptamine:Withaferin-A). The solution was taken on a petri dish and 1100 mg of alumina was added to the solution (to maintain 1:10 sample:alumina ratio) to adsorb Tryptamine-Withaferin-A mixture over alumina bed. The bed was kept at room temperature for 24 h without covering and shaking. Three different experiments were thus performed in the same manner using acidic, basic and neutral alumina to evaluate the optimum pH of the adsorption media for the conjugation reaction. After 24 h, the alumina bed containing the sample was taken in a conical flask and eluted by 50 ml (25 ml×2) of methanol with constant shaking for 5 minutes. The methanolic solution was filtered, evaporated under reduced pressure by rotary evaporator at 40° C. Tryptamine-withaferin-A conjugate thus formed under different pH conditions of the adsorbant (alumina) were subjected to comprehensive HPTLC analyses. The results are incorporated in Table B.

reactant | Tryptamine-HCl | 16 mg | Cl.NCCC1=CNC2=CC=CC=C12
reactant | ammonia | 0.2 ml | N | H3N
solvent | water | 0.2 ml | O | H2O
product | Tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
